US04980363
9.30 g of 2,4-dimethylthiazole-5-carboxylic acid was suspended in 90 ml of toluene, and 15.0 g of phosphorus pentachloride was added. The mixture was refluxed for 1 hour. Under reduced pressure, the resulting phosphorus oxychloride and the toluene were evaporated to give 2,4-dimethylthiazole-5-carboxylic acid chloride which was used in the following reaction without purification.

reactant | 2,4-dimethylthiazole-5-carboxylic acid | 9.30 g | CC=1SC(=C(N1)C)C(=O)O | C6H7NO2S
reactant | phosphorus pentachloride | 15.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-dimethylthiazole-5-carboxylic acid chloride | CC=1SC(=C(N1)C)C(=O)Cl | C6H6ClNOS
